US05382723
After the end of the introduction of the C4F9I, the distillation is continued up to 62° C. at the head so as to recover all of the C4F9H formed. 647 g of C4F9H of 99.3% purity (0.1% of perfluorooctane, 0.2% of entrained C4F9I and 0.3% of methanol) are thus obtained. Yield: 97.3%.

reactant | perfluorooctane | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8F18
reactant | C4F9I | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)I | C4F9I
solvent | methanol | CO | CH4O
product | C4F9H | 647 g, Yield: 97.3% | C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C4HF9
